US04667032
4-(n-Butylthio)-3H-phenothiazin-3-one
To a solution of phenothiazin-3-one (0.21 g) in 20 ml THF was added triethylamine (0.28 ml) and n-butanethiol (0.2 ml). The mixture was refluxed for 15 hours and then cooled to room temperature. 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) (0.22 g) was added and the reaction was stirred for 2 hours at 25°. The solvent was removed in vacuo. The residue was chromatographed on neutral alumina (Act III) and eluted with 15% EtOAc/hexane to afford the title compound, m.p. 72° C.

reactant | phenothiazin-3-one | 0.21 g | C1=CC(C=C2SC3=CC=CC=C3N=C12)=O | C12H7NOS
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | n-butanethiol | 0.2 ml | C(CCC)S | C4H10S
reactant | 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone | 0.22 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-(n-Butylthio)-3H-phenothiazin-3-one | C(CCC)SC=1C(C=CC2=NC3=CC=CC=C3SC12)=O | C16H15NOS2
